US06399603B1
2-((3,4-Dichlorophenyl)amino)-8-bromo-6-nitroquinazolin-4-ol.
A solution of 8-bromo-2-chloro-6-nitroquinazolin-4-ol (2.96 g) and 3,4-dichloroaniline (4.72 g) in 1-methyl-2-pyrrolidinone (70 mL) was heated at 140° C. for 3 h. The mixture was cooled to room temperature and poured onto ice/water (600 mL). The precipitate which formed was filtered, washed with water (50 mL), diethyl ether (150 mL) and dried in vacuo to afford the title compound (4.18 g). 1H NMR (300 MHz, DMSO-d6) δ11.62 (s, 1H), 9.64 (s, 1H), 8.72-8.65 (m, 3H), 7.61 (s, 1H), 7.60 (5, 1H); HPLC (Method B): 10.56 min. MS (APCI−): m/z 429, 431.

reactant | 8-bromo-2-chloro-6-nitroquinazolin-4-ol | 2.96 g | BrC=1C=C(C=C2C(=NC(=NC12)Cl)O)[N+](=O)[O-] | C8H3BrClN3O3
reactant | 3,4-dichloroaniline | 4.72 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
solvent | 1-methyl-2-pyrrolidinone | 70 mL | CN1C(CCC1)=O | C5H9NO
product | 2-((3,4-Dichlorophenyl)amino)-8-bromo-6-nitroquinazolin-4-ol | 4.18 g | ClC=1C=C(C=CC1Cl)NC1=NC2=C(C=C(C=C2C(=N1)O)[N+](=O)[O-])Br | C14H7BrCl2N4O3
